* B:\Git\Automobile-PMR\LTspice\IF2 filter a amp.asc
V1 V+ 0 5
V2 V- 0 -5
V3 in 0 SINE(0 2.23 100k) AC 1 Rser=50
R1 N006 N005 10K
R2 N005 N004 10K
R3 in 0 50
R4 N009 N006 10
C2 N009 0 10n
R5 N010 N009 100
C3 N010 0 1n
R6 out N003 10K
R7 N003 N002 10K
C4 N002 0 10n
V4 REF 0 1.6
XU2 N011 N005 V+ V- N006 LM324
XU3 N010 N003 V+ V- out LM324
C1 N004 0 10n
XU1 REF N013 V+ V- N012 LM324
C5 N013 0 1µ
R8 out N013 10k
R9 N012 N011 1k
C6 N013 N012 1µ
C7 N011 in 100n
XU5 N008 REF N001 0 N007 LT1720
R10 N008 out 1k
R11 N007 N008 68k
V5 N001 0 3.3
.tran 0.5m
;ac dec 100 1 100MEG
.lib LM324.sub
.lib LTC.lib
.backanno
.end
