* B:\Git\Automobile-PMR\LTspice\IF2 filter a amp.asc
V1 V+ 0 5
V2 V- 0 -5
V3 in 0 SINE(0 0.223 100k) AC 1 Rser=0
R1 N006 N005 10K
R2 N005 N004 4.7k
R3 in 0 50
R4 N013 N006 10
C2 N013 0 10n
R5 N014 N013 100
C3 N014 0 1n
R6 out N003 10K
R7 N003 N002 4.7k
C4 N002 0 10n
V4 REF 0 1.6
XU2 N015 N005 V+ V- N006 LM324
XU3 N014 N003 V+ V- out LM324
C1 N004 0 10n
XU1 REF N017 V+ V- N016 LM324
C5 N017 0 1µ
R8 out N017 10k
R9 N016 N015 1k
C6 N017 N016 1µ
C7 N012 in 100n
XU5 N011 REF N001 0 N010 LT1720
R10 N011 out 1k
R11 N010 N011 68k
V5 N001 0 3.3
R12 N009 N008 10K
R13 N008 N007 4k7
XU4 N012 N008 V+ V- N009 LM324
C8 N007 0 10n
R14 N015 N009 1k
R15 N012 0 10k
;tran 10m
.ac dec 100 1 100MEG
.lib LM324.sub
.lib LTC.lib
.backanno
.end
